US06005103
4-Hydroxy-3-[[(2-methoxyphenyl)thio]phenylmethyl]-6-phenyl-2H-pyran-2-one, (±)
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), benzaldehyde (0.593 mL, 5.84 mmol), 2-methoxythiophenol (1.93 mL, 13.8 mmol), piperdine (0.5 mL), acetic acid (0.5 mL). m.p. 165-170° C.; 1H NMR (400 MHz, DMSO-d6) δ3.870 (s, 3 H), 5.81 (s, 1 H), 6.70 (s, 1 H), 6.84 (t, 1 H), 7.19 (m, 3 H), 7.28 (t, 2 H), 7.53 (m, 3 H), 7.75 (m,2H), 12.13 (bs, 1 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | benzaldehyde | 5.84 mmol, 0.593 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-methoxythiophenol | 13.8 mmol, 1.93 mL | COC1=C(C=CC=C1)S | C7H8OS
reactant | piperdine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-Hydroxy-3-[[(2-methoxyphenyl)thio]phenylmethyl]-6-phenyl-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)C(C1=CC=CC=C1)SC1=C(C=CC=C1)OC | C25H20O4S
